US05814634
Synthesis of 4-geranyloxybenzoic acid
To a solution of methyl 4-geranyloxybenzoate(13.00 g) in methanol(50 ml) was added aqueous solution(10 ml) of potassium hydroxide (3.90 g). After being stirred overnight at room temperature, the mixture was refluxed with heating for 1 hour. After being acidified with concentrated hydrochloric acid, the reaction mixture was extracted with chloroform. The organic layer was dried over sodium sulfate anhydride and then the solvent was evaporated out under a vacuum. The resulting solid was recrystallized from hexane/ethyl acetate mixed solution, thereby yielding 9.77 g(71%) of the aimed compound.

reactant | methyl 4-geranyloxybenzoate | 13.00 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)OC)C=C1 | C18H24O3
reactant | potassium hydroxide | 10 ml, 3.90 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-geranyloxybenzoic acid | 9.77 g, 71% | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
